US05776964
tert-Butyl 2-(4-methyl-phenyl)-2-phenyl-2-hydroxy-acetate
30 ml of a 2M solution (60 mol) of phenyllithium in benzene/diethyl ether (3:1) are added dropwise at 0° C. with stirring to 13.2 g (60 mmol) of tert-butyl 2-(4-methyl-phenyl)-2-oxo-acetate under argon in 70 ml of THF and the mixture is stirred at room temperature for a further 1 h. The mixture is diluted with 80 ml of diethyl ether, poured into 150 ml of water with stirring, neutralised with 1N acetic acid and extracted three times with diethyl ether. The combined organic phases are dried over sodium sulphate and concentrated, and the product is chromatographed on silica gel 60 using 40-60 petroleum ether/ethyl acetate (4:1).

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | tert-butyl 2-(4-methyl-phenyl)-2-oxo-acetate | 60 mmol, 13.2 g | CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)=O | C13H16O3
reactant | water | 150 ml | O | H2O
reactant | acetic acid | 1N | C(C)(=O)O | C2H4O2
solvent | benzene diethyl ether | C1=CC=CC=C1.C(C)OCC
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | tert-Butyl 2-(4-methyl-phenyl)-2-phenyl-2-hydroxy-acetate | CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(O)C1=CC=CC=C1 | C19H22O3
